US07622492B2
Triethylamine (58 mL, 416 mmol) was added in two portions to a cooled (˜0° C.) mixture of 2,4-difluoro-phenylhydrazine hydrochloride (25 g, 138 mmol) and methanol (200 mL). The solution was stirred for 5 min and di-tert-butyl dicarbonate (33.1 g, 152 mmol) was added. The reaction mixture was stirred at 0° C. for 5 min, at reflux for 11 h, and then at room temperature over a weekend. The solvent was evaporated, ethyl acetate (600 mL) was added, and the solution was washed with a mixture of water and brine, dried (magnesium sulfate), filtered and evaporated to give an orange oil. A mixture of 5% ethyl acetate/hexanes (100 mL) was added. The mixture was heated, the flask scratched with a glass rod, and the mixture placed in a freezer for 30 min. The crystals were filtered off, washed with cold hexane and dried under high vacuum to give N′-(2,4-difluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester (19.85 g, 58%) as a tan solid.

reactant | Triethylamine | 416 mmol, 58 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoro-phenylhydrazine hydrochloride | 138 mmol, 25 g | Cl.FC1=C(C=CC(=C1)F)NN
reactant | di-tert-butyl dicarbonate | 152 mmol, 33.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 200 mL | CO | CH4O
product | N′-(2,4-difluoro-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 19.85 g, 58% | C(C)(C)(C)OC(=O)NNC1=C(C=C(C=C1)F)F | C11H14F2N2O2
